US07557244B2
c) 2-(3-Benzyloxy-5-hydroxy-phenyl)-4-methyl-pent-4-enoic acid methyl ester
10% Pd/C (Aldrich cat no 205699, 0.55 g) was added to a stirred solution of 2-(3,5-bis-benzyloxyphenyl)-4-methyl-pent-4-enoic acid methyl ester (14.1 g, 33.8 mmol) and NaOH (1.50 g, 37.5 mmol) in MeOH (180 mL) at room temperature. Stirring was continued for 1 h under H2 (1 atm.) then the mixture was filtered through Celite, concentrated in vacuo, suspended in water (100 mL) and adjusted to pH 2 with 1M HCl. The mixture was extracted with EtOAc (2×180 mL); the combined organic layer was washed with brine (50 mL), dried (MgSO4), concentrated in vacuo and purified by flash chromatography (silica, 0-30% EtOAc in petroleum ether) to give the title product as a yellow oil (7.40 g, 67%). 1H-NMR (400 MHz, CDCl3): δ 7.41-7.25 (m, 5H), 6.54 (s, 1H), 6.43 (s, 1H), 6.38 (s, 1H), 5.01 (s, 3H), 4.74 (s, 1H), 4.67 (s, 1H), 3.70 (t, 1H), 3.65 (s, 3H), 2.78 (dd, 1H), 2.38 (dd, 1H), 1.71 (s, 3H); RT==3.14 min. Mass spectrum (ESI, m/z) 325 (M−1)

reactant | 2-(3,5-bis-benzyloxyphenyl)-4-methyl-pent-4-enoic acid methyl ester | 33.8 mmol, 14.1 g | COC(C(CC(=C)C)C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C27H28O4
reactant | NaOH | 37.5 mmol, 1.50 g | [OH-].[Na+]
solvent | MeOH | 180 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 2-(3-Benzyloxy-5-hydroxy-phenyl)-4-methyl-pent-4-enoic acid methyl ester | 7.40 g, 67% | COC(C(CC(=C)C)C1=CC(=CC(=C1)O)OCC1=CC=CC=C1)=O | C20H22O4
